### PR TITLE
[Merged by Bors] - chore: robustifying for debug.byAsSorry

### PR DESCRIPTION
**Pull request by kim-em**
These are some minor changes, which are think are positive or neutral in any case, that help Mathlib compile under `set_option debug.byAsSorry true` (an option that [arrived](https://github.com/leanprover/lean4/pull/4576) in v4.10 that turns all `by` blocks into sorries --- Mathlib is very much broken, although perhaps less than one might expect).

### CODE REVIEW

File: Mathlib/Algebra/Divisibility/Units.lean [hunk 1]
```diff
@@ -67,44 +67,45 @@ namespace IsUnit
...
 section CommMonoid
 
-variable [CommMonoid α] {a b u : α} (hu : IsUnit u)
+variable [CommMonoid α] {a b u : α}
 
 /-- In a commutative monoid, an element `a` divides an element `b` iff `a` divides all left
     associates of `b`. -/
 @[simp]
-theorem dvd_mul_left : a ∣ u * b ↔ a ∣ b := by
+theorem dvd_mul_left(hu : IsUnit u)  : a ∣ u * b ↔ a ∣ b := by
```
Comment (grunweg) [inline Mathlib/Algebra/Divisibility/Units.lean:101]:
```suggestion
theorem dvd_mul_left (hu : IsUnit u) : a ∣ u * b ↔ a ∣ b := by

File: Mathlib/Algebra/Field/IsField.lean [hunk 2]
```diff
@@ -63,10 +63,13 @@ noncomputable def IsField.toSemifield {R : Type u} [Semiring R] (h : IsField R)
   inv_zero := dif_pos rfl
   mul_inv_cancel a ha := by convert Classical.choose_spec (h.mul_inv_cancel ha); exact dif_neg ha
   nnqsmul := _
+  nnqsmul_def q a := rfl
 
 /-- Transferring from `IsField` to `Field`. -/
 noncomputable def IsField.toField {R : Type u} [Ring R] (h : IsField R) : Field R :=
-  { ‹Ring R›, IsField.toSemifield h with qsmul := _ }
+  { ‹Ring R›, IsField.toSemifield h with
```
Comment (grunweg) [inline Mathlib/Algebra/Field/IsField.lean:70]: Just flagging for the other reviewers: I don't have an opinion on these - I trust you these are necessary later.

File: Mathlib/Algebra/GroupWithZero/InjSurj.lean [hunk 3]
```diff
@@ -50,8 +50,8 @@ variable [Mul M₀] [Zero M₀] [Mul M₀'] [Zero M₀']
 
 /-- Pull back a `NoZeroDivisors` instance along an injective function. -/
 protected theorem Function.Injective.noZeroDivisors [NoZeroDivisors M₀'] : NoZeroDivisors M₀ :=
-  { eq_zero_or_eq_zero_of_mul_eq_zero := fun H =>
-      have : f _ * f _ = 0 := by rw [← mul, H, zero]
+  { eq_zero_or_eq_zero_of_mul_eq_zero := @fun a b H =>
```
Comment (grunweg) [inline Mathlib/Algebra/GroupWithZero/InjSurj.lean:53]: Does this work?
```suggestion
  { eq_zero_or_eq_zero_of_mul_eq_zero := fun {a b} H ↦

File: Mathlib/Control/Applicative.lean [hunk 4]
```diff
@@ -95,21 +95,21 @@ theorem pure_seq_eq_map (f : α → β) (x : Comp F G α) : pure f <*> x = f <$>
 instance instLawfulApplicativeComp : LawfulApplicative (Comp F G) where
   seqLeft_eq := by intros; rfl
   seqRight_eq := by intros; rfl
-  pure_seq := @Comp.pure_seq_eq_map F G _ _ _ _
-  map_pure := @Comp.map_pure F G _ _ _ _
-  seq_pure := @Comp.seq_pure F G _ _ _ _
-  seq_assoc := @Comp.seq_assoc F G _ _ _ _
+  pure_seq := Comp.pure_seq_eq_map
```
Comment (grunweg) [inline Mathlib/Control/Applicative.lean:98]: Definitely an improvement, thanks!

File: Mathlib/Data/List/Basic.lean [hunk 5]
```diff
@@ -1536,25 +1537,28 @@ theorem scanr_cons (f : α → β → β) (b : β) (a : α) (l : List α) :
   | cons hd tl ih => simp only [foldr, ih]
 
 section FoldlEqFoldr
```
Comment (grunweg) [inline Mathlib/Data/List/Basic.lean:1539]: I thought mathlib style is to leave a blank line after sections? Not a blocking concern, in any case.
```suggestion
section FoldlEqFoldr

```

File: Mathlib/Data/List/EditDistance/Defs.lean [hunk 6]
```diff
@@ -116,8 +116,8 @@ theorem impl_cons (w' : 0 < List.length ds) :
 
 -- Note this lemma has two unspecified proofs: `h` appears on the left-hand-side
```
Comment (grunweg) [inline Mathlib/Data/List/EditDistance/Defs.lean:117]: Can you update this comment as well?

File: Mathlib/Order/Bounds/Basic.lean [hunk 7]
```diff
@@ -974,7 +974,7 @@ theorem mem_lowerBounds_image (Has : a ∈ lowerBounds s) (Hat : a ∈ t) :
 theorem mem_lowerBounds_image_self : a ∈ lowerBounds t → a ∈ t → f a ∈ lowerBounds (f '' t) :=
   Hf.mem_lowerBounds_image subset_rfl
 
-theorem image_upperBounds_subset_upperBounds_image (Hst : s ⊆ t) :
+theorem image_upperBounds_subset_upperBounds_image (Hf : MonotoneOn f t) (Hst : s ⊆ t) :
```
Comment (grunweg) [inline Mathlib/Order/Bounds/Basic.lean:977]: Perhaps a follow-up question: did you also mean to delete the `(Hf : MonotoneOn f t)` in the variables declaration 17 lines up?

File: Mathlib/Order/GaloisConnection.lean [hunk 8]
```diff
@@ -98,10 +98,12 @@ theorem monotone_u : Monotone u := fun a _ H => gc.le_u ((gc.l_u_le a).trans H)
 theorem monotone_l : Monotone l :=
   gc.dual.monotone_u.dual
 
-theorem upperBounds_l_image (s : Set α) : upperBounds (l '' s) = u ⁻¹' upperBounds s :=
+theorem upperBounds_l_image (gc : GaloisConnection l u) (s : Set α) :
```
Comment (grunweg) [inline Mathlib/Order/GaloisConnection.lean:101]: Same question: delete the `gc` hypothesis 31 lines above?

**Review by grunweg — COMMENTED** [review]
Thanks for the clean-up! I agree that these changes are neutral or positive. I left a couple of small tweaks, but in my eyes, this PR could be delegated easily. Hence, let me
maintainer merge

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Field/IsField.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Field/IsField.lean:70]: This change is harmless, but I don't understand why it is needed.

Clearly the `_` is being populated by elaborating the `rfl` proof, but why is this impacted by whether the `rfl` proof is inlined or inserted automatically behind the scenes?

**Comment by eric-wieser** [comment]
Can you explain in the PR description what `debug.byAsSorry` is? I assume there's a Lean issue or PR you could link to.

File: Mathlib/Algebra/Field/IsField.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Algebra/Field/IsField.lean:70]: Under `byAsSorry`, `rfl` will never even run.

File: Mathlib/Data/List/EditDistance/Defs.lean (hunk 6 above)
Comment (semorrison) [reply Mathlib/Data/List/EditDistance/Defs.lean:117]: There's no need to update: the proofs are still there and will generate side goals when rewriting. All that has changed is I've written the types of the proofs.

File: Mathlib/Order/Bounds/Basic.lean (hunk 7 above)
Comment (semorrison) [reply Mathlib/Order/Bounds/Basic.lean:977]: No, that needs to stay: most of the theorems here pick this up in term mode, I've just added to the places that only pick it up from tactic mode.

This may all need revisiting after #2452 is resolved.

File: Mathlib/Order/GaloisConnection.lean (hunk 8 above)
Comment (semorrison) [reply Mathlib/Order/GaloisConnection.lean:101]: As above.

File: Mathlib/Algebra/Field/IsField.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Field/IsField.lean:70]: Oh, is the difference here `by rfl` vs `rfl`?
